US04937367
A mixture of di-ter.butylphosphite (2.13 g; 0.11 mol) and hexamethyldisilazane (8.87 g; 0.055 mol) was kept under nitrogen at 100° C. for 2 hours. The mixture was slowly cooled at 15° C. 2(S)-acetoxypropionyl chloride (15.0 g; 0.1 mol) was added under nitrogen at 15° C. in 15 minutes, thereafter the low-boiling compounds were removed by distillation under vacuum (20°-30° C./10 mmHg). Di-ter.butyl 2(S)-acetoxypropionyl phosphonate (27.72 g) was thereby obtained as oil.

reactant | butylphosphite | 0.11 mol, 2.13 g | C(CCC)OP([O-])[O-]
reactant | hexamethyldisilazane | 0.055 mol, 8.87 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 2(S)-acetoxypropionyl chloride | 0.1 mol, 15.0 g | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
product | butyl 2(S)-acetoxypropionyl phosphonate | 27.72 g | P(OCCCC)(OC([C@H](C)OC(C)=O)=O)=O | C9H17O6P
